US04266014
(c) 1-(2',2',2'-trifluoroethyl)-3-(m-nitrophenyl)-2-pyrazolin-5-one
0.15 Mole (35.6 g) of m-nitrobenzoyl acetic acid ethyl ester and 0.15 mole (25.2 g) of 2,2,2-trifluoroethyl hydrazine hydrate were stirred together for 2 hours in 90 ml of boiling acetic acid. Subsequently, the reaction mixture was poured out in water. After stirring and filtration, the precipitate was recrystallized from methanol.

reactant | m-nitrobenzoyl acetic acid ethyl ester | 0.15 Mole, 35.6 g | C(C)OC(CC(C1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C11H11NO5
reactant | 2,2,2-trifluoroethyl hydrazine hydrate | 0.15 mole, 25.2 g | O.FC(CNN)(F)F
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-(2',2',2'-trifluoroethyl)-3-(m-nitrophenyl)-2-pyrazolin-5-one | FC(CN1N=C(CC1=O)C1=CC(=CC=C1)[N+](=O)[O-])(F)F | C11H8F3N3O3
